US05233057
Dimethyl 5,6-methylenedioxy-4'-methoxy-5'-benzoyloxy-2,2'-biphenyldicarboxylate (1.15 g) is dissolved in tetrahydrofuran (50 ml) and methanol (50 ml), and the solution is stirred under 40 psi hydrogen gas atmosphere in the presence of palladium-carbon (0.2 g) for 16 hours. After the reaction, the catalyst is filtered off, and the filtrate is evaporated into dryness under reduced pressure. The residue is treated with methanol to give dimethyl 5,6-methylenedioxy-4'-methoxy-5'-hydroxy-2,2'-biphenyl-dicarboxylate (0.86 g) as colorless crystal. M.p. 172°-173° C.

reactant | Dimethyl 5,6-methylenedioxy-4'-methoxy-5'-benzoyloxy-2,2'-biphenyldicarboxylate | 1.15 g | C1OC2=CC=C(C(=C2O1)C=1C(=CC(=C(C1)OC(C1=CC=CC=C1)=O)OC)C(=O)OC)C(=O)OC | C25H20O9
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
product | dimethyl 5,6-methylenedioxy-4'-methoxy-5'-hydroxy-2,2'-biphenyl-dicarboxylate | 0.86 g | C1OC2=CC=C(C(=C2O1)C=1C(=CC(=C(C1)O)OC)C(=O)OC)C(=O)OC | C18H16O8
